US09284335B2
Step B: 9-Bromopyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5(6H)-one.
Formyl hydrazine (60 mg, 1.0 mmol) was added to a solution of methyl 5-bromo-3-cyanopyridin-2-ylcarbamate (255 mg, 1.0 mmol) in 1-methylpyrrolidinone (5 mL). The resulting mixture was stirred at 120° C. for 3 h. The mixture was cooled to room temperature and poured into ice-water (20 mL). The resulting solid was separated by filtration, washed with water and hexanes and dried under vacuum to afford the title compound (160 mg, 60%). 1H NMR (400 MHz, DMSO-d6) δ 8.60 (s, 1H), 8.70 (s, 1H), 8.80 (s, 1H), 13.00 (br s, 1H). [M+H]=266.3.

reactant | Formyl hydrazine | 1.0 mmol, 60 mg | C(=O)NN | CH4N2O
reactant | methyl 5-bromo-3-cyanopyridin-2-ylcarbamate | 1.0 mmol, 255 mg | BrC=1C=C(C(=NC1)NC(OC)=O)C#N | C8H6BrN3O2
reactant | 1-methylpyrrolidinone | 5 mL | CN1C(CCC1)=O | C5H9NO
product | 9-Bromopyrido[3,2-e][1,2,4]triazolo[1,5-c]pyrimidin-5(6H)-one | 160 mg, 60% | BrC1=CC=2C=3N(C(NC2N=C1)=O)N=CN3 | C8H4BrN5O
